US05075467
N-Benzyl-2,4-difluoroaniline
195.4 g (0.9 mol) of N-benzal-2,4-difluoroaniline are dissolved in 900 ml of tetrahydrofuran in an autoclave. 19 g of Raney nickel and 2 g of acetic acid are added, and the mixture is hydrogenated at 60° to 85° C. and a hydrogen pressure of 100 bar. The end point of the reaction is determined by thin-layer chromatography or gas chromatography. The suspension is filtered and the solution is evaporated on a vacuum rotary evaporator. The residue is distilled in vacuo at 102° C. and 3.6 mbar, to give 125.6 g (64% of theory) of a pale yellow liquid.

reactant | N-benzal-2,4-difluoroaniline | 0.9 mol, 195.4 g | C(C1=CC=CC=C1)=NC1=C(C=C(C=C1)F)F | C13H9F2N
reactant | acetic acid | 2 g | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 19 g | [Ni] | Ni
product | N-Benzyl-2,4-difluoroaniline | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)F)F | C13H11F2N
